US05073556
20 ml of acetic anhydride and 6 ml of ethyl orthoformate were added to the whole of the ethyl 3-difluoromethoxy-2,4,5-trifluorobenzoylacetate [(XV), R1 =--OCHF2, R3' =H, R17 =C2H5, X=X'=F] prepared as described in step (b) above, and, after the mixture had been heated under reflux for 2 hours, the excess acetic anhydride and ethyl orthoformate were removed by evaporation under reduced pressure. The residue was dissolved in 200 ml of methylene chloride, and 1.25 g (0.022 moles) of cyclopropylamine was added dropwise, whilst stirring and ice-cooling; the stirring was continued, whilst ice-cooling, for an additional 1 hour. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, and the residue was subjected to silica gel column chromatography, using a 9:1 by volume mixture of toluene and ethyl acetate as the eluent, to give 3.29 g of ethyl 3-cyclopropylamino-2-(3-difluoromethoxy-2,4,5-trifluorobenzoyl)acrylate as an amber colored liquid.

reactant | ethyl orthoformate | 6 ml | C(OCC)([O-])[O-]
reactant | ethyl 3-difluoromethoxy-2,4,5-trifluorobenzoylacetate | FC(OC=1C(=C(C(=O)CC(=O)OCC)C=C(C1F)F)F)F | C12H9F5O4
reactant | cyclopropylamine | 0.022 moles, 1.25 g | C1(CC1)N | C3H7N
solvent | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | ethyl 3-cyclopropylamino-2-(3-difluoromethoxy-2,4,5-trifluorobenzoyl)acrylate | 3.29 g | C1(CC1)NC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)OC(F)F)F)=O | C16H14F5NO4
